US05300503
Under a nitrogen atmosphere, a stirred solution of 5.0 grams (0.026 mole) of 2,4,5-trichlorotoluene and 5.3 grams (0.030 mole) of N-bromosuccinimide in 30 ml of carbon tetrachloride was heated to reflux and then was irradiated with a sun lamp during a 10 minute period. The reaction mixture was allowed to cool to ambient temperature at which time it was filtered to remove excess succinimide. The filtrate was concentrated under reduced pressure to a residual oil. The oil was distilled under vacuum, yielding four fractions in the boiling point range of 130°-152° C./5 mm Hg. NMR analysis of the fractions indicated that two fractions, boiling point 140°-150° C./5 mm Hg., contained the majority of the reaction product. The two fractions were combined and diluted with 1 ml of petroleum ether. The mixture was filtered to remove unreacted starting material. The filtrate was diluted with 12 ml of petroleum ether, and the solution was cooled in dry-ice. The solvent was removed from the resultant solid by pipette. The solid was dried under reduced pressure, yielding 2.7 grams of 80% pure 2,4,5-trichlorophenylmethyl bromide. The NMR spectrum was consistent with the proposed structure.

reactant | 2,4,5-trichlorotoluene | 0.026 mole, 5.0 grams | ClC1=C(C=C(C(=C1)Cl)Cl)C | C7H5Cl3
reactant | N-bromosuccinimide | 0.030 mole, 5.3 grams | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2,4,5-trichlorophenylmethyl bromide | 2.7 grams, 80% | ClC1=C(C=C(C(=C1)Cl)Cl)CBr | C7H4BrCl3
